US05688954
A solution of potassium tert-butoxide (83.55 g) in tetrahydrofuran (500 ml) at 22° C. is treated, dropwise, with a solution of methyl nicotinate (68.5 g) and delta-valerolactone (75.0 g) in tetrahydrofuran (125 ml) during a period of 1 hour. The solution is then stirred at 23° C. for 2 hours. The reaction mixture is diluted with water and washed with toluene (125 ml). The organic phase is discarded and the aqueous phase is treated dropwise with concentrated hydrochloric acid (400 ml; 37% w/v). The solution is stirred for a further 2 hours. The solution is then washed with dichloromethane (250 ml). The organic phase is discarded and the aqueous phase is treated with aqueous sodium hydroxide solution to bring it to between pH8 and pH9. The aqueous phase is then washed with toluene (125 ml) and the organic phase is back washed with water (3×100 ml). The two aqueous phases are combined and extracted with dichloro- methane. The dichloromethane extract is dried over magnesium sulphate, and evaporated to dryness, to give 4-hydroxybutyl 3-pyridyl ketone (61.1 g) in the form of an oil which crystallises to form a pale brown solid, m.p. 36°-38° C. [NMR (CDCl3): 1.7(m,2H), 1.9(m,2H), 3.1(t,2H), 3.7(t,2H), 7.4(m,1H), 8.2(dt,1H), 8.8(m, 1H), 9.2(m, 1H)].

reactant | potassium tert-butoxide | 83.55 g | CC(C)([O-])C.[K+]
reactant | methyl nicotinate | 68.5 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | delta-valerolactone | 75.0 g | C1(CCCCO1)=O | C5H8O2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-hydroxybutyl 3-pyridyl ketone | 61.1 g | N1=CC(=CC=C1)C(=O)CCCCO | C10H13NO2
